US06753334B2
To a 500 ml flask under a nitrogen atmosphere, concentrated HCl (80 ml, 32%, 0.81 moles) was charged and cooled to −2 to 0° C. 2-Chloroaniline (16 ml, 19.4 g, 0.15 moles) was added dropwise at −2 to 0° C. Sodium nitrite (12.4 g, 0.18 moles) dissolved in water (25 ml) was added dropwise to the acidic mixture through an addition funnel over a period of 30 minutes at −2 to 0° C. The resulting mixture was stirred for 1 hour at −2 to 0° C. L-Ascorbic acid (26.6 g, 0.15 moles) dissolved in water (130 ml) was added through an addition funnel over a period of 1 hour at −2 to 0° C. The reaction was allowed to come to room temperature (18-20° C.) over a period of 30 minutes, then heated to 40° C. and stirred for 3 hours at that temperature, cooled and stirred overnight at 18-20° C. The resultant orange slurry was filtered; the solid was washed with water, then repulped three times in hot methylene chloride (450 ml) and finally in water (115 ml) at 30° C. The product was dried to constant weight to afford 20.4 g of 2-chlorophenylhydrazido oxalic acid as a yellow solid (HPLC purity calculated as area percent:>99%).

reactant | HCl | 0.81 moles, 80 ml | Cl | ClH
reactant | 2-Chloroaniline | 0.15 moles, 16 ml, 19.4 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | Sodium nitrite | 0.18 moles, 12.4 g | N(=O)[O-].[Na+]
reactant | L-Ascorbic acid | 0.15 moles, 26.6 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
solvent | water | 25 ml | O | H2O
solvent | water | 130 ml | O | H2O
product | 2-chlorophenylhydrazido oxalic acid | 20.4 g | ClC1=C(C=CC=C1)N(N)C(C(=O)O)=O | C8H7ClN2O3
